US04497822
2-Chloro-N-[[[4-(trifluoromethoxy)phenyl]-N-[(2-nitrophenyl)thio]amino]carbonyl]benzamide (1)
A solution of 50 g of 2-chlorobenzoyl isocyanate in 50 ml of dry toluene was added to a stirred solution of 60 g of N-[4-(trifluoromethoxy)phenyl]-2-nitrobenzenesulphenamide in 100 ml of the same solvent. The reaction was slightly exothermic, reaching a maximum temperature of 35° C. After 4 days at room temperature, the reaction mixture was cooled to -5° C. and the crystalline cake of product was broken up under cold toluene, filtered, washed with toluene followed by cold light petroleum (b.p. 40°-60° C.) and dried at 40° C. under reduced pressure, to give 1, as pale yellow crystals, m.p. 155°-158° C. (with decomposition).

reactant | 2-chlorobenzoyl isocyanate | 50 g | ClC1=C(C(=O)N=C=O)C=CC=C1 | C8H4ClNO2
reactant | N-[4-(trifluoromethoxy)phenyl]-2-nitrobenzenesulphenamide | 60 g | FC(OC1=CC=C(C=C1)NSC1=C(C=CC=C1)[N+](=O)[O-])(F)F | C13H9F3N2O3S
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 2-Chloro-N-[[[4-(trifluoromethoxy)phenyl]-N-[(2-nitrophenyl)thio]amino]carbonyl]benzamide | ClC1=C(C(=O)NC(=O)N(SC2=C(C=CC=C2)[N+](=O)[O-])C2=CC=C(C=C2)OC(F)(F)F)C=CC=C1 | C21H13ClF3N3O5S
